* C:\Users\andyv\Google Drive\source\repos\MLoptLVDS180\opti_w_bey2\lvds_rcvr_testbed_v3.asc
V1 vdd 0 {supply}
I1 iref_sink 0 50µ
V3 inp inn PULSE({pulse_ampl /2} {-1*pulse_ampl /2} {cycle_time/10} {cycle_time/10} {cycle_time/10} {cycle_time/2} {cycle_time})
R1 inp vcm 50
R2 vcm inn 50
V4 vcm 0 {vcm}
C2 out 0 10f
E1 in 0 inp inn 1.0
XX1 inn inp iref_sink vdd out lvds_rcvr_v4

* block symbol definitions
.subckt lvds_rcvr_v4 inn inp iref_sink vdd out
M3 pair_neg_out inp vcm vcm PMOS l={inpair_l} w={inpair_w}
M4 pair_pos_out inn vcm vcm PMOS l={inpair_l} w={inpair_w}
M5 vcm iref_sink vdd vdd PMOS l={in_i_l} w={intailsrc_w}
M6 pair_pos_out mirror_gate 0 0 NMOS l={infold_l} w={infold_w}
M7 pair_neg_out mirror_gate 0 0 NMOS l={infold_l} w={infold_w}
M8 iref_sink iref_sink vdd vdd PMOS l={in_i_l} w={in_i_w}
M9 mirror_gate iref_sink vdd vdd PMOS l={in_i_l} w={infoldsrc_w}
M10 mirror_gate mirror_gate 0 0 NMOS l={infold_l} w={infold_w}
M11 mirror_pos pair_neg_out vdd vdd PMOS l={pos_stg2_l} w={pos_stg2_in_w}
M12 pair_neg_out pair_neg_out vdd vdd PMOS l={pos_stg2_l} w={pos_stg2_in_w}
M13 stg2_out pair_pos_out vdd vdd PMOS l={pos_stg2_l} w={pos_stg2_out_w}
M14 pair_pos_out pair_pos_out vdd vdd PMOS l={pos_stg2_l} w={pos_stg2_in_w}
M15 stg2_out mirror_pos 0 0 NMOS l={neg_stg2_l} w={neg_stg2_out_w}
M16 mirror_pos mirror_pos 0 0 NMOS l={neg_stg2_l} w={neg_stg2_in_w}
M17 stg3_out stg2_out vdd vdd PMOS l={pos_stg3_l} w={pos_stg3_w}
M18 stg3_out stg2_out 0 0 NMOS l={neg_stg3_l} w={neg_stg3_w}
C1 vcm 0 1f
C2 pair_pos_out 0 0.2f
C3 pair_neg_out 0 0.2f
C4 mirror_pos 0 0.2f
C5 stg1_out 0 0.2f
C6 iref_sink 0 1f
C7 mirror_gate 0 1f
M1 out stg3_out vdd vdd PMOS l={pos_stg4_l} w={pos_stg4_w}
M2 out stg3_out 0 0 NMOS l={neg_stg4_l} w={neg_stg4_w}
.ends lvds_rcvr_v4

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\andyv\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 {cycle_time*1} 0
.param pulse_ampl=0.05
*.param supply=1.8
.param cycle_time=6n
*----------------------------------------------------------------------
* rising prop delay
.measure tpdr
+ TRIG v(in) VAL=0 FALL=1
+ TARG v(out) VAL='SUPPLY/2' RISE=1
* falling prop delay
.measure tpdf
+ TRIG v(in) VAL=0 RISE=1
+ TARG v(out) VAL='SUPPLY/2' FALL=1
* average prop delay
.measure tpd param=(tpdr+tpdf)/2
* Delta rise fall time - essential FOM for speed
.measure tdrf param=tpdr-tpdf
*
* rise time
.measure trise TRIG v(out) VAL='0.333*SUPPLY' RISE=1 TARG v(out) VAL='0.667*SUPPLY' RISE=1
* fall time
.meas tfall TRIG v(out)={0.667*SUPPLY} FALL=1 TARG v(out)={0.333*SUPPLY} FALL=1
* The optimizer program drops the params in here
*
.include param.txt
*
*.save V(out) V(in)
* Note that we must save everything we are trying to measure
*
.include 180nm_bulk.lib
*
.temp {sim_temp}
.backanno
.end
